US05041673
(+)-Trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride
Trans-N-[(2R)-2-phenylpropanoyl-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, diastereoisomer A (183 mg) was refluxed in 6N aqueous hydrochloric acid (20 ml) for 4 hours. The reaction mixture was evaporated in vacuo and the residue taken up in water. The aqueous solution was washed with ethyl acetate and evaporated to give a white solid which was recrystallized from a methanol/ethyl acetate mixture to yield the title compound (99 mg).

reactant | (2R)-2-phenylpropanoyl-3-amino-1,2,3,4-tetrahydro-2-naphthalenol | C1(=CC=CC=C1)C(C(=O)C1[C@H](C(CC2=CC=CC=C12)N)O)C | C19H21NO2
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | (+)-Trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride | 99 mg | Cl.N[C@H]1[C@@H](CC2=CC=CC=C2C1)O | InChI=1S/C10H13NO.ClH/c11-9-5-7-3-1-2-4-8(7)6-10(9)12;/h1-4,9-10,12H,5-6,11H2;1H/t9-,10-;/m1./s1
